US07943607B2
3-[(2-Methyl-1,1-dioxido-3,4-dihydro-2H-5,1,2-benzoxathiazepin-7-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzoic acid
A mixture of 3-hydroxy-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzoic acid (0.2 g, 0.88 mmol), 7-fluoro-2-methyl-3,4-dihydro-2H-5,1,2-benzoxathiazepine 1,1-dioxide (205 mg, 0.88 mmol) and potassium carbonate (244 mg, 1.77 mmol) in acetonitrile (5 mL) was stirred in a microwave reactor at 120° C. for 28 hours. The solvent was removed in vacuo and water (50 mL) and ethyl acetate (50 mL) added. The ethyl acetate layer was separated and discarded and the aqueous layer acidified and extracted into ethyl acetate (2×50 mL). The combined organics were washed with brine, dried (MgSO4), filtered and the solvent removed in vacuo to give the desired compound as a brown oil (0.22 g) which was used in the following steps without further purification. m/z 436 (M−H)−

reactant | 3-hydroxy-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzoic acid | 0.88 mmol, 0.2 g | OC=1C=C(C(=O)O)C=C(C1)O[C@H](COC)C | C11H14O5
reactant | 7-fluoro-2-methyl-3,4-dihydro-2H-5,1,2-benzoxathiazepine 1,1-dioxide | 0.88 mmol, 205 mg | FC=1C=CC2=C(OCCN(S2(=O)=O)C)C1 | C9H10FNO3S
reactant | potassium carbonate | 1.77 mmol, 244 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-[(2-Methyl-1,1-dioxido-3,4-dihydro-2H-5,1,2-benzoxathiazepin-7-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzoic acid | 0.22 g | CN1S(C2=C(OCC1)C=C(C=C2)OC=2C=C(C(=O)O)C=C(C2)O[C@H](COC)C)(=O)=O | C20H23NO8S
